2133-08-28 08:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2133-8-28**] 01:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2133-8-28**] 12:00 AM
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-28**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 70 (70 - 70) bpm
   BP: 102/50(62) {79/39(48) - 115/59(73)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 90%
   Heart rhythm: V Paced
             Total In:
                                                                  2,900 mL
                                                                  1,844 mL
   PO:
             TF:
   IVF:
                                                                    300 mL
                                                                  1,844 mL
   Blood products:
   Total out:
                                                                  1,312 mL
                                                                    686 mL
   Urine:
                                                                    182 mL
                                                                    571 mL
   NG:
   Stool:
   Drains:
                                                                    260 mL
                                                                    115 mL
   Balance:
                                                                  1,588 mL
                                                                  1,158 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 90%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   159 K/uL
   10.3 g/dL
   111 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   23 mg/dL
   108 mEq/L
   142 mEq/L
   31.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2133-8-27**]  08:25 PM
                             [**2133-8-27**]  09:50 PM
                             [**2133-8-28**]  04:36 AM
   WBC
   6.2
   9.5
   Hct
   20.8
   29.6
   31.1
   Plt
   105
   159
   Cr
   0.9
   0.9
   TropT
   0.02
   0.03
   Glucose
   93
   111
   Other labs: PT / PTT / INR:14.9/29.4/1.3, CK / CKMB /
   Troponin-T:418/6/0.03, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   [**Age over 90 323**] YO gentleman with HTN, SSS s/p pacer, AS s/p AVR and AFib who
   presents with hypotension after THR
   .
   #. Hypotension. Patient with possible adequate afterload, now with
   adequate preload (Slightly wet on physical and CXR). Most likely
   hypotensive for low reserve due systolic dysfunction. Patient with
   similar presentation to last years after right hip replacement. Patient
   currently on dopamine to increase contraction (at beta dose).
   - F/u BP if unstable will need Central line for CVP monitoring
   - F/U urine output as sign of tissue perfussion
   .
   #. S/P THR. Patient is doing well. Drainage pulled today.
   - Pain control with morphine pca
   - Will resume coumadin today
   - F/u orthor recs
   .
   #. Hypertension. Patient currently normotensive.
   - Continue to hold home lasix, terazosin
   - Continue ASA 81 mg qd.
   .
   #. AVR. Patient doing well s/p AVR. No active issues.
   .
   #. Atrial fibrillation: anticoagulation being hold since 5 days ago in
   the setting of pre-surgrey. Now restarted today.
   - Daily INRs.
   - Monitor on telemetry
   .
   #. SSS s/p pacemaker placement.
   - EP interrogated pacer recently preoperatively, with good function.
   .
   #. BPH. S/P TURP. On terazosin.
   - Hold terazosin for now in setting of hypotension.
   .
   #. FEN. Cardiac heart healthy diet.
   .
   #. PPx. Senna/colace/lactulose. Coumadin. PPI. pneumoboots.
   .
   #. Code. Full.
   .
   #. Communication. With patient, sister [**Name (NI) 5622**] [**Name (NI) 1069**], 1-[**Telephone/Fax (1) 5623**].
   .
   #. Access. 2 peripherals. [**Month (only) 60**] need central line.
   .
   #. Dispo. To floor tomorrow AM if HD stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-27**] 09:44 PM
   18 Gauge - [**2133-8-27**] 09:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-08-28 11:32:00 Physician Attending Progress Note
Chief Complaint: Hypotension--post operative
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2133-8-28**] 01:45 AM
   -Patient with continued need for pressor support with Dopamine
   -Had acute episode of hyptension at midnight requiring IVF bolus but
   resulting in suggestion of pulmonary edema was seen
   -Dopamine then started rather than pursuit of additional fluids given
   suggestion of pulmonary edema
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2133-8-28**] 08:00 AM
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2133-8-28**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 70 (70 - 70) bpm
   BP: 105/57(69) {79/39(48) - 115/59(73)} mmHg
   RR: 18 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                  2,900 mL
                                                                  2,192 mL
   PO:
             TF:
   IVF:
                                                                    300 mL
                                                                  2,192 mL
   Blood products:
   Total out:
                                                                  1,312 mL
                                                                    847 mL
   Urine:
                                                                    182 mL
                                                                    732 mL
   NG:
   Stool:
   Drains:
                                                                    260 mL
                                                                    115 mL
   Balance:
                                                                  1,588 mL
                                                                  1,345 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   159 K/uL
   111 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   23 mg/dL
   108 mEq/L
   142 mEq/L
   31.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2133-8-27**]  08:25 PM
                             [**2133-8-27**]  09:50 PM
                             [**2133-8-28**]  04:36 AM
   WBC
   6.2
   9.5
   Hct
   20.8
   29.6
   31.1
   Plt
   105
   159
   Cr
   0.9
   0.9
   TropT
   0.02
   0.03
   Glucose
   93
   111
   Other labs: PT / PTT / INR:14.9/29.4/1.3, CK / CKMB /
   Troponin-T:418/6/0.03, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   [**Age over 90 323**] yo female wtih HTN, AS, AVR, A-fib and admit to ICU following left
   THR with persistent post operative hypotesion.  In the setting of AS
   and CHF and A-fib patient has had hypotension which was showing some
   response to fluid support but there was evolution of significant
   evidence of pulmonary edema and patient required return of Dopamine for
   pressor support suggesting imbalance in regards to filling pressures
   and forward flow in regards to effective cardiac output.
   1)Hypotension-Likely combination of hypovolemia and impaired cardiac
   output with chronotropic limitation with pacer dependence for heat rate
   has been slow to stabilize in the setting of imparied ejection
   fraction.
   -Wean dopamine as possible today
   -IVF bolus as needed
   -Goal JVP <8cm H2O as it was at this pressure that suggestion of
   pulmonary congestion was seen.
   2)S/P Total Hip Replacement-
   -Will move to anticoagulation given hip replacement and A-fib
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-27**] 09:44 PM
   18 Gauge - [**2133-8-27**] 09:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :ICU
   Total time spent: 35

2133-08-29 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2133-8-28**] 05:39 PM
   -1L bolus for hypotension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2133-8-28**] 08:00 AM
   Infusions:
   Dopamine - 6 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-29**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 70 (70 - 71) bpm
   BP: 94/48(59) {84/41(53) - 123/65(77)} mmHg
   RR: 20 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
             Total In:
                                                                  3,342 mL
                                                                    380 mL
   PO:
                                                                    840 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,502 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    456 mL
   Urine:
                                                                  1,495 mL
                                                                    456 mL
   NG:
   Stool:
   Drains:
                                                                    115 mL
   Balance:
                                                                  1,732 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   HEENT: NCAT MMM anicteric
   CV: RRR S1S2
   PULM: bibasilar crackles otherwise clear
   ABD: soft but slightly distended nontender +bs
   EXT: WWP 1+dp pulses, mild bipedal edema, THS dressings c/d/i
   SKIN: no rashes, lesions
   Labs / Radiology
   158 K/uL
   10.0 g/dL
   111 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   22 mg/dL
   102 mEq/L
   135 mEq/L
   30.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2133-8-27**]  08:25 PM
                             [**2133-8-27**]  09:50 PM
                             [**2133-8-28**]  04:36 AM
                             [**2133-8-29**]  04:30 AM
   WBC
   6.2
   9.5
   10.5
   Hct
   20.8
   29.6
   31.1
   30.4
   Plt
   105
   159
   158
   Cr
   0.9
   0.9
   0.8
   TropT
   0.02
   0.03
   Glucose
   93
   111
   111
   Other labs: PT / PTT / INR:16.3/29.4/1.4, CK / CKMB /
   Troponin-T:418/6/0.03, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   [**Age over 90 323**] YO gentleman with HTN, SSS s/p pacer, AS s/p AVR and AFib who
   presents with hypotension after THR
   .
   #. Hypotension. Has been responsive to fluids and now decreased dose of
   dopamine. Noted on exam pts pressure drops with use of PCA which may be
   the reason he is unable to wean off pressors. Will switch to PO pain
   regimen today. Also with significant cardiac insufficiency at
   baseline.
   - continue telemetry
   - wean off pressors as tolerated once PCA is off
   - monitor UOP
   -I/O even, avoid fluid overload
   .
   #. S/P THR. Patient doing well, pain well controlled. Would switch to
   PO pain regimen to enable weaning off pressors.
   - PO pain medication
   - F/u orthor recs
   .
   #. Hypertension. Hold home medications until normotensive.
   - Continue to hold home lasix, terazosin
   - Continue ASA 81 mg qd.
   .
   #. AVR. Patient doing well s/p AVR. No active issues.
   .
   #. Atrial fibrillation: anticoagulation being hold since 5 days ago in
   the setting of pre-surgrey. Now restarted today.
   - Daily INRs, recently restarted on coumadin currently subtherapeutic
   - Monitor on telemetry
   .
   #. SSS s/p pacemaker placement.
   - EP interrogated pacer recently preoperatively, with good function.
   .
   #. BPH. S/P TURP. On terazosin.
   - Hold terazosin for now in setting of hypotension.
   .
   #. FEN. Cardiac heart healthy diet, replete electrolytes
   .
   #. PPx. Senna/colace/lactulose. Coumadin. PPI. pneumoboots.
   .
   #. Code. Full.
   .
   #. Communication. With patient, sister [**Name (NI) 5622**] [**Name (NI) 1069**], 1-[**Telephone/Fax (1) 5623**].
   .
   #. Access. 2 peripherals. [**Month (only) 60**] need central line.
   .
   #. Dispo. To floor once off pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-27**] 09:44 PM
   18 Gauge - [**2133-8-27**] 09:45 PM
   Multi Lumen - [**2133-8-28**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-08-29 11:48:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 323**] year old male with HTN, AS s/p AVR, Afib/SSS s/p pacer s/p left THR
   [**8-27**] with post-op hypotension requiring pressors.
   24 Hour Events:
 MULTI LUMEN - START [**2133-8-28**] 05:39 PM
   *Received 1000 liters total for hypotension
   *Remains on dopamine drip
   *Some tendency for pressor requirements to increase after pressing PCA
   pump
   History obtained from [**Hospital 85**] Medical records, MICU housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2133-8-28**] 08:00 AM
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   digoxin, fe sulfate, ca carbonate, vit D, colace
   Changes to medical and family history:
   CHF ef ~30%
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-29**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 72 (70 - 72) bpm
   BP: 117/56(72) {84/41(53) - 123/65(77)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
             Total In:
                                                                  3,342 mL
                                                                    861 mL
   PO:
                                                                    840 mL
                                                                    420 mL
   TF:
   IVF:
                                                                  2,502 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    596 mL
   Urine:
                                                                  1,495 mL
                                                                    596 mL
   NG:
   Stool:
   Drains:
                                                                    115 mL
   Balance:
                                                                  1,732 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing, boots
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   10.0 g/dL
   158 K/uL
   111 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   22 mg/dL
   102 mEq/L
   135 mEq/L
   30.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2133-8-27**]  08:25 PM
                             [**2133-8-27**]  09:50 PM
                             [**2133-8-28**]  04:36 AM
                             [**2133-8-29**]  04:30 AM
   WBC
   6.2
   9.5
   10.5
   Hct
   20.8
   29.6
   31.1
   30.4
   Plt
   105
   159
   158
   Cr
   0.9
   0.9
   0.8
   TropT
   0.02
   0.03
   Glucose
   93
   111
   111
   Other labs: PT / PTT / INR:16.3/29.4/1.4, CK / CKMB /
   Troponin-T:418/6/0.03, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: s/p pacer, left HD not well visualized
   Assessment and Plan
   [**Age over 90 323**] year old male with:
   1. post-op hypotension: Remains on dopa gtt
      Wean as able to maintain MAP>60
      Gentle fluids as needed
      Attempt to wean PCA sedation and transition to oral meds, which will
   help with BP
      Remains off BP meds
   2. Afib: restarted on coumadin, adjust based on INR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-27**] 09:44 PM
   18 Gauge - [**2133-8-27**] 09:45 PM
   Multi Lumen - [**2133-8-28**] 05:39 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2133-08-30 07:32:00 Physician Resident Progress Note
Chief Complaint: Hypotension after left THR
   24 Hour Events:
   Dopamine weaned to 2mc/kg
   Increased pain regimen for pain control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2133-8-28**] 08:00 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-30**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 70 (70 - 73) bpm
   BP: 86/52(60) {86/43(54) - 117/60(72)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
    CVP: 9 (5 - 18)mmHg
   Total In:
                                                                  3,681 mL
                                                                    132 mL
   PO:
                                                                    900 mL
   TF:
   IVF:
                                                                  2,781 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,196 mL
                                                                    260 mL
   Urine:
                                                                  1,196 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,485 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   130 K/uL
   8.5 g/dL
   100 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   25 mg/dL
   106 mEq/L
   137 mEq/L
   25.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2133-8-27**]  08:25 PM
                             [**2133-8-27**]  09:50 PM
                             [**2133-8-28**]  04:36 AM
                             [**2133-8-29**]  04:30 AM
                             [**2133-8-30**]  04:34 AM
   WBC
   6.2
   9.5
   10.5
   7.4
   Hct
   20.8
   29.6
   31.1
   30.4
   25.9
   Plt
   105
   159
   158
   130
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   0.02
   0.03
   Glucose
   93
   111
   111
   100
   Other labs: PT / PTT / INR:17.6/35.9/1.6, CK / CKMB /
   Troponin-T:418/6/0.03, Differential-Neuts:79.9 %, Lymph:10.8 %,
   Mono:5.8 %, Eos:3.3 %, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   [**Age over 90 323**] YO gentleman with HTN, SSS s/p pacer, AS s/p AVR and AFib who
   presents with hypotension after THR
   .
   #. Hypotension. Patietn with known systolic heart failure and known to
   have SBP problems after surgery (i.e. one year ago with the
   contralateral hip replacement). Patient has been tried to be weaned of
   dopamine unsuccessfully multiple times last night. CVP is 9, patient
   with minimal requirement of opioids for pain control. Pts blood level
   dropped from HCT 30 to 26.
   -Stop opiods
   -Switch to standing Tylenol
   -If patient still in pain can give Tramdol
   -Give 1 RBC pack
   -Wean of pressors as tolerated
   -Monitor I/O
   -Goal CVP 8-10
   .
   #. S/P THR. Patient doing well, pain well controlled. Would switch to
   PO pain regimen to enable weaning off pressors.
   - Pain controlled
   - F/u orthor recs
   .
   #. Hypertension. Hold home medications until normotensive.
   - Continue to hold home lasix, terazosin
   - Continue ASA 81 mg qd.
   .
   #. AVR. Patient doing well s/p AVR. No active issues.
   .
   #. Atrial fibrillation: anticoagulation being hold since 5 days ago in
   the setting of pre-surgrey. Now restarted today.
   - Daily INRs, recently restarted on coumadin currently subtherapeutic.
   So increasing dose to 10mg.
   - Monitor on telemetry
   .
   #. SSS s/p pacemaker placement.
   - EP interrogated pacer recently preoperatively, with good function.
   .
   #. BPH. S/P TURP. On terazosin.
   - Hold terazosin for now in setting of hypotension.
   .
   #. FEN. Cardiac heart healthy diet, replete electrolytes
   .
   #. PPx. Senna/colace/lactulose. Coumadin. PPI. pneumoboots.
   .
   #. Code. Full.
   .
   #. Communication. With patient, sister [**Name (NI) 5622**] [**Name (NI) 1069**], 1-[**Telephone/Fax (1) 5623**].
   .
   #. Access. IJ and peripherals
   .
   #. Dispo. To floor once off pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-8-27**] 09:44 PM
   18 Gauge - [**2133-8-27**] 09:45 PM
   Multi Lumen - [**2133-8-28**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2133-08-30 12:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off and on dopamine gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2133-8-28**] 08:00 AM
   Infusions:
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-30**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 70 (70 - 73) bpm
   BP: 97/45(57) {86/43(54) - 112/59(71)} mmHg
   RR: 25 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   CVP: 7 (5 - 18)mmHg
   Total In:
                                                                  3,681 mL
                                                                    723 mL
   PO:
                                                                    900 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,781 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  1,196 mL
                                                                    650 mL
   Urine:
                                                                  1,196 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,485 mL
                                                                     73 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Alert, conversant
   Lungs: scattered rales at bases
   CV: RRR 2/6 SEM LSB
   Abd: soft nontender +bs
   Labs / Radiology
   8.5 g/dL
   130 K/uL
   100 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   25 mg/dL
   106 mEq/L
   137 mEq/L
   25.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2133-8-27**]  08:25 PM
                             [**2133-8-27**]  09:50 PM
                             [**2133-8-28**]  04:36 AM
                             [**2133-8-29**]  04:30 AM
                             [**2133-8-30**]  04:34 AM
   WBC
   6.2
   9.5
   10.5
   7.4
   Hct
   20.8
   29.6
   31.1
   30.4
   25.9
   Plt
   105
   159
   158
   130
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   0.02
   0.03
   Glucose
   93
   111
   111
   100
   Other labs: PT / PTT / INR:17.6/35.9/1.6, CK / CKMB /
   Troponin-T:418/6/0.03, Differential-Neuts:79.9 %, Lymph:10.8 %,
   Mono:5.8 %, Eos:3.3 %, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   CXR: continued engorged vasculature, about the same as yesterday
   Assessment and Plan
   [**Age over 90 323**] yo male with HTN, SS s/p pacer, AS s/p Avr, afib with hypotension
   s/p left THR.
   Hypotension: Over the past day has intermittently required dopamine
   drip despite fluid resuscitation
   Per ortho his BP has historically been very senstiive to narcotics,
   which more recently he has been using for chronic arthritis rather than
   post-op pain.
   Will adjust pain medicines to decrease narcotic needs, use tylenol and
   try ultram
   s/p THR: Ortho following
   Decreased Hct: could be partly dilutional, but reasonable given CV
   status to transfuse 1 unit then re-check post-tx Hct
   Afib: INR still subtherapeutic, increase coumadin
   Other issues as per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: right IJ CVL
   20 Gauge - [**2133-8-27**] 09:44 PM
   18 Gauge - [**2133-8-27**] 09:45 PM
   Multi Lumen - [**2133-8-28**] 05:39 PM
   Prophylaxis:
   DVT: boots, coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:full
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2133-08-31 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   RBC transfusion.
   CVP goal [**3-8**]
   Try to wean him off pressors.
   Stopped opioids; tylenol standing for pain control (at baseline due to
   OA)
   Coumadin increased to 10mg (home dose 8, during last 3 days and INR
   still low)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2133-8-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2133-8-30**] 04:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-8-31**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 70 (70 - 71) bpm
   BP: 127/55(73) {85/43(54) - 138/72(87)} mmHg
   RR: 28 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (6 - 14)mmHg
   Total In:
                                                                  1,626 mL
                                                                    427 mL
   PO:
                                                                    940 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    418 mL
                                                                     77 mL
   Blood products:
                                                                    268 mL
   Total out:
                                                                  1,105 mL
                                                                    500 mL
   Urine:
                                                                  1,105 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    521 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   159 K/uL
   9.1 g/dL
   95 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.4 mEq/L
   23 mg/dL
   104 mEq/L
   138 mEq/L
   26.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2133-8-27**]  08:25 PM
                             [**2133-8-27**]  09:50 PM
                             [**2133-8-28**]  04:36 AM
                             [**2133-8-29**]  04:30 AM
                             [**2133-8-30**]  04:34 AM
                             [**2133-8-30**]  09:30 PM
                             [**2133-8-31**]  04:36 AM
   WBC
   6.2
   9.5
   10.5
   7.4
   7.1
   Hct
   20.8
   29.6
   31.1
   30.4
   25.9
   27.7
   26.9
   Plt
   105
   159
   158
   130
   159
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   TropT
   0.02
   0.03
   Glucose
   93
   111
   111
   100
   95
   Other labs: PT / PTT / INR:19.8/36.0/1.8, CK / CKMB /
   Troponin-T:418/6/0.03, Differential-Neuts:79.9 %, Lymph:10.8 %,
   Mono:5.8 %, Eos:3.3 %, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   [**Age over 90 323**] YO gentleman with HTN, SSS s/p pacer, AS s/p AVR and AFib who
   presents with hypotension after THR
   .
   #. Hypotension. Patietn with known systolic heart failure and known to
   have SBP problems after surgery (i.e. one year ago with the
   contralateral hip replacement). Patient has been tried to be weaned of
   dopamine unsuccessfully multiple times last night. CVP is 9, patient
   with minimal requirement of opioids for pain control. Pts blood level
   dropped from HCT 30 to 26.
   -Stop opiods
   -Switch to standing Tylenol
   -If patient still in pain can give Tramdol
   -Give 1 RBC pack
   -Wean of pressors as tolerated
   -Monitor I/O
   -Goal CVP 8-10
   .
   #. S/P THR. Patient doing well, pain well controlled. Would switch to
   PO pain regimen to enable weaning off pressors.
   - Pain controlled
   - F/u orthor recs
   .
   #. Hypertension. Hold home medications until normotensive.
   - Continue to hold home lasix, terazosin
   - Continue ASA 81 mg qd.
   .
   #. AVR. Patient doing well s/p AVR. No active issues.
   .
   #. Atrial fibrillation: anticoagulation being hold since 5 days ago in
   the setting of pre-surgrey. Now restarted today.
   - Daily INRs, recently restarted on coumadin currently subtherapeutic.
   So increasing dose to 10mg.
   - Monitor on telemetry
   .
   #. SSS s/p pacemaker placement.
   - EP interrogated pacer recently preoperatively, with good function.
   .
   #. BPH. S/P TURP. On terazosin.
   - Hold terazosin for now in setting of hypotension.
   .
   #. FEN. Cardiac heart healthy diet, replete electrolytes
   .
   #. PPx. Senna/colace/lactulose. Coumadin. PPI. pneumoboots.
   .
   #. Code. Full.
   .
   #. Communication. With patient, sister [**Name (NI) 5622**] [**Name (NI) 1069**], 1-[**Telephone/Fax (1) 5623**].
   .
   #. Access. IJ and peripherals
   .
   #. Dispo. To floor once off pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2133-8-28**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: